US08012980B2
3-(6-Bromo-4-formyl-1-oxoisoquinolin-2(1H)-yl)-2,2-dimethylpropyl pivalate
A stirred solution of 3-(6-bromo-1-oxoisoquinolin-2(1H)-yl)-2,2-dimethylpropyl pivalate (51.3 g) in DMF (150 mL) at 75° C. (flask fitted with a CaCl2 drying tube) was treated dropwise over ˜20 min with a freshly prepared solution of Vilsmeyer Haak reagent [freshly prepared by dropwise addition of POCl3 (182 mL) over ˜40 min to DMF (302 mL) at 0° C. and then stirred for 1 h at room temperature]. Heating was continued for 8 h, and then the reaction mixture was cooled to room temperature and stirred overnight. The mixture was poured onto ice water (6 L) [CAUTION: exotherm] and extracted with tert-butyl methyl ether (2×2.5 L). The combined organics were washed with 20% w/v aqueous brine (2.5 L), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified (SiO2 chromatography, eluting with 10% to 20% ethyl acetate/isohexane) to give the subtitle product (41.5 g).

reactant | 3-(6-bromo-1-oxoisoquinolin-2(1H)-yl)-2,2-dimethylpropyl pivalate | 51.3 g | C(C(C)(C)C)(=O)OCC(CN1C(C2=CC=C(C=C2C=C1)Br)=O)(C)C | C19H24BrNO3
reactant | POCl3 | 182 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
reactant | DMF | 302 mL | CN(C)C=O | C3H7NO
product | 3-(6-Bromo-4-formyl-1-oxoisoquinolin-2(1H)-yl)-2,2-dimethylpropyl pivalate | 41.5 g | C(C(C)(C)C)(=O)OCC(CN1C(C2=CC=C(C=C2C(=C1)C=O)Br)=O)(C)C | C20H24BrNO4
